US06281221B1
5-Chloro-6-ethyl-4-(2,2-dimethyl-1,3-dioxan-5-ylamino)-pyrimidine
2.65 g (15 mmol) of 4,5-dichloro-6-ethyl-pyrimidine, 2.40 g (18.3 mmol) of 5-amino-2,4-dimethyl-1,3-dioxane and 3.03 g (30 mmol) of triethylamine were heated under reflux in 10 ml of toluene for 4 hours. After cooling, the mixture was extracted by stirring with water and the organic phase was dried and concentrated. For purification, the residue was chromatographed over silica gel (ethyl acetate/petroleum ether 4:1). This gave 0.46 g (11% of theory) of product as a colorless oil.

reactant | 4,5-dichloro-6-ethyl-pyrimidine | 15 mmol, 2.65 g | ClC1=NC=NC(=C1Cl)CC | C6H6Cl2N2
reactant | 5-amino-2,4-dimethyl-1,3-dioxane | 18.3 mmol, 2.40 g | NC1C(OC(OC1)C)C | C6H13NO2
reactant | triethylamine | 30 mmol, 3.03 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Chloro-6-ethyl-4-(2,2-dimethyl-1,3-dioxan-5-ylamino)-pyrimidine | ClC=1C(=NC=NC1CC)NC1COC(OC1)(C)C | C12H18ClN3O2
